US07037916B2
A solution of cyclopent-3-enecarboxylic acid (2.25 g), diphenylphosphoryl azide (4.7 mL), and triethylamine (2.8 mL) in 25 mL toluene was refluxed for 7 h. The mixture was cooled to rt and treated with 10 mL of tert-butanol. The resulting mixture was refluxed for an additional 16 h. The solvents were evaporated and the crude residue was chromatographed with silica gel (1:10 ethyl acetate:hexanes) to give Cyclopent-3-enylcarbamic acid tert-butyl ester (racemic): (2.37 g). Borane-tetrahydrofuran (1.5 M in THF, 20 mL) was added dropwise to a solution of cyclopent-3-enylcarbamic acid tert-butyl ester (1.83 g) in tetrahydrofuran (30 mL) at 0° C. The solution was gradually warmed to rt and stirred for 16 h. The reaction solution was cooled to 0° C. and sodium hydroxide (1 N, 33 mL) was slowly added followed by 30% hydrogen peroxide (33 mL). The resulting mixture was stirred at rt for an additional 5 h and diluted with ethyl acetate (70 mL). The aqueous layer was separated and extracted with ethyl acetate (30 mL×3). The combined organic layers were washed with water and brine, dried over Na2SO4, and concentrated via rotary evaporator. Silica gel chromatography (1:1 ethyl acetate:hexanes) provided 0.25 g of cis-(3-hydroxycyclopentyl)carbamic acid tert-butyl ester (racemic) followed by 1.07 g of the trans isomer. A solution of cis-(3-hydroxycyclopentyl)-carbamic acid tert-butyl ester (201 mg) in dimethylformamide (3 mL) was treated with sodium hydride (60% in mineral oil, 95 mg) at 0° C. After gas evolution had ceased, the mixture was stirred for 30 min at rt. Iodoethane (88 μL) was added to the mixture and the reaction was stirred at rt for 16 h. The excess sodium hydride was destroyed at 0° C. by the careful addition of aqueous ammonium chloride. The resulting mixture was partitioned between ethyl acetate and ammonium chloride and the organic layer was separated and washed with brine. The organic layer was dried over Na2SO4 and concentrated via rotary evaporator. Silica gel chromatography (1:4 ethyl acetate:hexanes) provided cis-(3-ethoxycyclopentyl)carbamic acid tert-butyl ester (racemic) (102 mg). Cis-(3-ethoxycyclopentyl)carbamic acid tert-butyl ester was stirred in 1:1 trifluoroacetic acid:dichloromethane for 0.5 h. The solvent was removed by evaporation to provide cis-3-ethoxycyclopentylamine (racemic).

reactant | cis-(3-hydroxycyclopentyl)-carbamic acid tert-butyl ester | 201 mg | C(C)(C)(C)OC(N[C@@H]1C[C@@H](CC1)O)=O | C10H19NO3
reactant | sodium hydride | 95 mg | [H-].[Na+]
reactant | Iodoethane | 88 μL | ICC | C2H5I
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | cis-(3-ethoxycyclopentyl)carbamic acid tert-butyl ester | 102 mg | C(C)(C)(C)OC(N[C@@H]1C[C@@H](CC1)OCC)=O | C12H23NO3
